US04335054
0.448 g (2 millimols) of palladium acetate, 33.7 g (0.2 mol) of 3,4-dimethylbenzoyl chloride, 13.25 g (0.25 mol) of acrylonitrile and 37.06 g (0.2 mol) of tri-n-butylamine in 200 ml of p-xylene are stirred for 1.5 hours at 120° C. The mixture is then extracted by shaking with 200 ml of 2 N HCl, 200 ml of 2 N NaOH and 100 ml of water, after which it is dried for 15 minutes with 20 g of magnesium sulfate. The crude product is chromatographed on silica gel in methylene chloride, and is recrystallised from n-hexane. 10.0 g (32% of theory) of 3,4-dimethylcinnamonitrile are obtained as pale yellow crystals, melting point 93.9° C. Analysis for C11H11N: calculated C 84.04%, H 7.05%, N 8.91%; found C 83.65%, H 6.87%, N 9.03%.

reactant | 3,4-dimethylbenzoyl chloride | 0.2 mol, 33.7 g | CC=1C=C(C(=O)Cl)C=CC1C | C9H9ClO
reactant | acrylonitrile | 0.25 mol, 13.25 g | C(C=C)#N | C3H3N
reactant | tri-n-butylamine | 0.2 mol, 37.06 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | p-xylene | 200 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | palladium acetate | 2 millimols, 0.448 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3,4-dimethylcinnamonitrile | 10.0 g, 32% | CC=1C=C(C=CC#N)C=CC1C | C11H11N
